US03935311
5-Hydroxymethyl-3-(p-methoxybenzoyloxy)-2-methylpyridine (No. 40)
To a solution of 0.9 g. of 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride in 5 ml. of anhydrous pyridine was added 0.86 g. of p-anisoyl chloride dropwise under cooling. After standing overnight the resulting mixture was poured into ice water and extracted with chloroform.

reactant | 5-hydroxymethyl-2-methyl-3-pyridinol hydrochloride | Cl.OCC=1C=C(C(=NC1)C)O
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Hydroxymethyl-3-(p-methoxybenzoyloxy)-2-methylpyridine | OCC=1C=C(C(=NC1)C)OC(C1=CC=C(C=C1)OC)=O | C15H15NO4
